US07786132B2
(i) 5-(2-Chloro-5-fluoropyrimidin-4-yl)-N-methyl-N-phenylthiazol-2-amine
A 1.6 M solution of tBuLi in heptane (1.6 mL, 2.6 mmol) was added to a stirred solution of 0.44 g (2.3 mmol) of 2-(N-Methyl-N-phenylamino)thiazole in 8 mL of THF at −78° C. The solution was stirred for 15 min at −78° C. before 0.24 mL (2.6 mmol) of 2-chloro-5-fluoropyrimidine and 2 mL of THF were added. The reaction solution was stirred for 10 min at −78° C., then quenched by addition of 1 mL of AcOH in 1 mL of MeOH. Solid 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.1 g, 4.6 mmol) was added and the reaction solution was warmed to 0° C. and stirred for 30 min, poured into 50 mL of a 0.5 M solution of sodium ascorbate, diluted with 200 mL of water and the crude product removed by filtration and washed repeatedly with water. The residue was dried by toluene co-evaporation to deliver the title compound. MS (M+H)+ 321.

reactant | tBuLi | [Li]C(C)(C)C
reactant | heptane | 2.6 mmol, 1.6 mL | CCCCCCC | C7H16
reactant | 2-(N-Methyl-N-phenylamino)thiazole | 2.3 mmol, 0.44 g | CN(C1=CC=CC=C1)C=1SC=CN1 | C10H10N2S
reactant | 2-chloro-5-fluoropyrimidine | 2.6 mmol, 0.24 mL | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.6 mmol, 1.1 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(2-Chloro-5-fluoropyrimidin-4-yl)-N-methyl-N-phenylthiazol-2-amine | ClC1=NC=C(C(=N1)C1=CN=C(S1)N(C1=CC=CC=C1)C)F | C14H10ClFN4S
